US08304443B2
1-(6-(Benzyloxy)-1-(tetrahydro-2H-pyran-2-yl)-indazol-3-yl)ethanol
(6-(Benzyloxy)-1-(tetrahydro-2H-pyran-2-yl)-indazole-3-carbaldehyde (16.7 mg) which can be prepared according to the method described in Reference example 23, etc. was dissolved in dehydrated THF (0.5 mL; manufactured by Kanto Chemical Co., Inc.). After cooling to 0° C. with the replacement with nitrogen, 0.96 mol/L-methylmagnesium bromide-THF solution (57 μL; manufactured by Kanto Chemical Co., Inc.) and the mixture was stirred overnight while warming to room temperature. To the reaction solution, dehydrated THF (1 mL; manufactured by Kanto Chemical Co., Inc.) and 0.96 mol/L-methylmagnesium bromide-THF solution (1 mL; manufactured by Kanto Chemical Co., Inc.) were added and the mixture was stirred at room temperature for 4.5 hours. To the reaction solution, 2 mol/L hydrochloric acid was added and extraction was carried out twice with ethyl acetate. The organic layer was washed twice with water and once with brine and dried over anhydrous sodium sulfate. After the solvent was evaporated under reduced pressure, the residue was purified by column chromatography (“COLUMN-F”; n-hexane:ethyl acetate 2:1) to obtain the title compound (11.4 mg).

reactant | 6-(Benzyloxy)-1-(tetrahydro-2H-pyran-2-yl)-indazole-3-carbaldehyde | 16.7 mg | C(C1=CC=CC=C1)OC1=CC=C2C(=NN(C2=C1)C1OCCCC1)C=O | C20H20N2O3
reactant | methylmagnesium bromide THF | 57 μL | C[Mg]Br.C1CCOC1
reactant | methylmagnesium bromide THF | 1 mL | C[Mg]Br.C1CCOC1
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 1-(6-(Benzyloxy)-1-(tetrahydro-2H-pyran-2-yl)-indazol-3-yl)ethanol | 11.4 mg | C(C1=CC=CC=C1)OC1=CC=C2C(=NN(C2=C1)C1OCCCC1)C(C)O | C21H24N2O3
